US07279469B2
1-Cyclopropyl-4-(4-nitro-phenyl)-piperazine:
To a solution of 1-(4-nitrophenyl)piperazine (1.04 g, 5.00 mmol) in methanol (25 mL) under nitrogen was added molecular sieves (1.0 g), acetic acid (3.00 g, 2.86 mL, 50.0 mmol), [(1-ethoxycyclopropyl)oxy]trimethylsilane (5.22 g, 5.99 mL, 30.0 mmol), sodium cyanoborohydride (1.41 g, 22.5 mmol). The mixture was stirred at room temperature for 2.5 d, filtered, and concentrated. To the residue was added water and 1N aq. NaOH to adjust the PH>11. The mixture was extracted ethyl acetate, and the organic layer was dried over Na2SO4, concentrated to give the title compound (1.24 g, 100%) as a yellow solid. MS (ES+): m/z=247.8.

reactant | 1-(4-nitrophenyl)piperazine | 5.00 mmol, 1.04 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | acetic acid | 50.0 mmol, 2.86 mL, 3.00 g | C(C)(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 30.0 mmol, 5.99 mL, 5.22 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 22.5 mmol, 1.41 g | C(#N)[BH3-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-Cyclopropyl-4-(4-nitro-phenyl)-piperazine | 1.24 g, 100% | C1(CC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O2
